US07582638B2
Add 2,2,2-trichloroethyl chloroformate (8.1 mmol, 1.1 mL) and aqueous sodium carbonate solution (4.8 mL) over a solution of 5-(2-fluoro-1-fluoromethyl-1-methyl-ethyl)-2-p-tolyl-2H-pyrazol-3-ylamine (7.3 mmol, 1.9 g) in 37 mL of THF. Stir for 24 hours. Pour the solution over water and extract in ethyl acetate. Combine organic layers and wash with saturated aq. sodium chloride. Dry over sodium sulfate, filter, and concentrate under reduced pressure to give [5-(2-fluoro-1-fluoromethyl-1-methyl-ethyl)-2-p-tolyl-2H-pyrazol-3-yl]-carbamic acid 2,2,2-trichloro-ethyl ester. LCMS ES+ (m/z) 440 [M+H].

reactant | 2,2,2-trichloroethyl chloroformate | 8.1 mmol, 1.1 mL | ClC(=O)OCC(Cl)(Cl)Cl | C3H2Cl4O2
reactant | sodium carbonate | 4.8 mL | C([O-])([O-])=O.[Na+].[Na+]
reactant | 5-(2-fluoro-1-fluoromethyl-1-methyl-ethyl)-2-p-tolyl-2H-pyrazol-3-ylamine | 7.3 mmol, 1.9 g | FCC(C)(CF)C=1C=C(N(N1)C1=CC=C(C=C1)C)N | C14H17F2N3
reactant | water | O | H2O
solvent | THF | 37 mL | C1CCOC1 | C4H8O
product | [5-(2-fluoro-1-fluoromethyl-1-methyl-ethyl)-2-p-tolyl-2H-pyrazol-3-yl]-carbamic acid 2,2,2-trichloro-ethyl ester | ClC(COC(NC=1N(N=C(C1)C(CF)(C)CF)C1=CC=C(C=C1)C)=O)(Cl)Cl | C17H18Cl3F2N3O2
